US07064123B1
A solution of diethyl bis(hydroxymethyl)malonate (46.95 g, 0.21 moles) (prepared by the method of P. Block, Jr., Organic Synthesis, Collective Volume V, 381 (1973)) in methylene chloride (500 mL) was treated with triethyl amine (63 mL) and cooled to −30° C. A mixture of methylsulfonyl chloride (35 mL) in methylene chloride (40 mL) was added to the reaction mixture dropwise over 20 minutes and the reaction mixture was allowed to stir at room temperature for 18 hours. The reaction mixture was then poured into ice water and the product was extracted with methylene chloride. The organic extracts were washed with saturated aqueous sodium chloride and then dried over magnesium sulfate. The solvent was removed by rotary evaporation at reduced pressure and the residue was recrystallized from t-butylmethyl ether and hexane to give 2,2-bis-methylsulfonyloxymethyl-malonic acid diethyl ester (55.04 g).

reactant | diethyl bis(hydroxymethyl)malonate | 0.21 moles, 46.95 g | OCC(C(=O)OCC)(C(=O)OCC)CO | C9H16O6
reactant | triethyl amine | 63 mL | C(C)N(CC)CC | C6H15N
reactant | methylsulfonyl chloride | 35 mL | CS(=O)(=O)Cl | CH3ClO2S
solvent | methylene chloride | 500 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 40 mL | C(Cl)Cl | CH2Cl2
product | 2,2-bis-methylsulfonyloxymethyl-malonic acid diethyl ester | 55.04 g | C(C)OC(C(C(=O)OCC)(COS(=O)(=O)C)COS(=O)(=O)C)=O | C11H20O10S2
